data/oMe_Silver.jsonl
{"reaction_id": "NG-005_1-c1ccsc1_2-S(=O)(=O)c1ccccc1_3-c1ccc(OC)cc1","name": "Acid-catalyzed Aldol condensation","level": "medium","reactants_smiles": ["C(c1ccsc1)C=O","C(S(=O)(=O)c1ccccc1)(c1ccc(OC)cc1)=O"],"products_smiles": ["C(S(=O)(=O)c1ccccc1)(c1ccc(OC)cc1)=C(C=O)c1ccsc1"],"conditions": "Acid (H3O+)","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccsc1)=C(O)S(=O)(=O)c1ccccc1","rationale": "Acid protonates the carbonyl oxygen, increasing electrophilicity and facilitating enol formation via resonance-stabilized cation."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(S(=O)(=O)c1ccccc1)(c1ccc(OC)cc1)=[OH+]","rationale": "Protonation of the second carbonyl increases its electrophilicity, making it more susceptible to nucleophilic attack by the enol."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(S(=O)(=O)c1ccccc1)(c1ccc(OC)cc1)(O)C(C=[OH+])c1ccsc1","rationale": "The nucleophilic α-carbon of the enol attacks the protonated carbonyl, favored by strong electrophile activation and conjugation potential."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(S(=O)(=O)c1ccccc1)(c1ccc(OC)cc1)(O)C(C=O)c1ccsc1","rationale": "Proton transfer restores the neutral β-hydroxyketone, stabilizing the intermediate through hydrogen bonding and resonance."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(S(=O)(=O)c1ccccc1)(c1ccc(OC)cc1)([OH2+])C(C=O)c1ccsc1","rationale": "Protonation of the β-hydroxy group converts it into a better leaving group (water) under acidic conditions."},{"step": 6,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(S(=O)(=O)c1ccccc1)(c1ccc(OC)cc1)=C(C=O)c1ccsc1","rationale": "Loss of water forms a conjugated α,β-unsaturated carbonyl, thermodynamically favored due to extended π-system stabilization."}],"description": "Under acidic conditions, one carbonyl is activated toward enolization, while the other is protonated to enhance electrophilicity. The enol attacks the activated carbonyl, forming a β-hydroxyketone intermediate, which then undergoes acid-catalyzed dehydration to yield the α,β-unsaturated carbonyl product."}
{"reaction_id": "NR-033_1-OCC_2-C_3-c1ccc(OC)cc1_4-OC_5-C(=O)C_6-c1ccccc1_7-C","name": "Buchner Ring Expansion","level": "medium","reactants_smiles": ["N#[N+][CH-]C(=O)OCC","c1(C)c(c1ccc(OC)cc1)c(OC)c(C(=O)C)c(c1ccccc1)c1(C)"],"products_smiles": ["[CH](C(=O)OCC)1C(C)=C(c1ccc(OC)cc1)C(OC)=C(C(=O)C)C(c1ccccc1)=C1C"],"conditions": "heat/Metal","mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[CH]C(=O)OCC","step_weight": 0,"rationale": "Heating with metal catalyst promotes nitrogen extrusion from the diazo group, forming a carbene stabilized by adjacent carbonyl resonance."},{"step": 2,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C(C(=O)OCC)1C(C)2C(c1ccc(OC)cc1)=C(OC)C(C(=O)C)=C(c1ccccc1)C2(C)1","step_weight": 0,"rationale": "The electrophilic carbene adds to the electron-rich aromatic π-system, favored by carbene’s high reactivity and aromatic nucleophilicity."},{"step": 3,"type": "pericyclic","subtype": "electrocyclization","intermediate_smiles": "[CH](C(=O)OCC)1C(C)=C(c1ccc(OC)cc1)C(OC)=C(C(=O)C)C(c1ccccc1)=C1C","step_weight": 0,"rationale": "The strained bicyclic intermediate undergoes thermally allowed electrocyclic ring expansion to a more stable conjugated seven-membered ring."}],"description": "Under thermal and metal catalysis, the diazo ketone loses nitrogen to form a reactive carbene, which adds to the aromatic ring. The resulting bicyclic intermediate undergoes a pericyclic ring expansion, yielding the seven-membered ring product characteristic of the Buchner reaction."}
